### ISSUE TITLE
Cannot derive functional induction principle: failed to transform matcher, type error when constructing new pre-splitter motive

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#10516]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

This code:
```lean
def bla (a : Nat) (h : 0 < a) : Nat :=
  if h : a ≤ 1 then
    0
  else
    have : 0 ≠ a := by omega
    match a with
    | 0 => False.elim (by contradiction)
    | a + 1 => bla a (by omega)
termination_by structural a

theorem blub {a : Nat} {h : 0 < a} : bla a h ≤ 1 := by
  fun_induction bla
```

generates this error message

``` 
Failed to realize constant bla.induct_unfolding:
  Cannot derive functional induction principle (please report this issue)
    failed to transform matcher, type error when constructing new pre-splitter motive:
      bla.match_1
        (fun a h h_1 this_1 =>
          t = a →
            ∀ (x : Nat.below (motive := fun a => ∀ (h : 0 < a), motive a h (bla a h)) a),
              motive a h
                (match a, h, h_1, this with
                | 0, h, h_2, this => (bla._proof_1 h).elim
                | a.succ, h, h_2, this => bla a (bla._proof_2 a h_2)))
        t h✝ h this
    failed with
      Application type mismatch: The argument
        this✝
      has type
        0 ≠ t
      but is expected to have type
        0 ≠ a✝
      in the application
        bla.match_1 (fun a h h_1 this => Nat) a✝ h✝ h this✝
```

### Context

Minimized from a similar function in the `String` API.

### Steps to Reproduce

1. Copy the above code into live.lean-lang.org

**Expected behavior:** No error

**Actual behavior:** See above

### Versions

`Lean 4.25.0-nightly-2025-09-22`

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Thanks for the report. `match` statements with dependent targets are notorious tricky.

A work-around in your case is to use the non-unfolding induction principle:
```
theorem blub {a : Nat} {h : 0 < a} : bla a h ≤ 1 := by
  induction a, h using bla.induct
  · unfold bla
    simp [*]
  · unfold bla
    simp [*]  
```

**Comment by nomeata** [comment]
Interesting, this works:
```
def bla (a : Nat) (h : 0 < a) : Nat :=
  if h : a ≤ 1 then
    0
  else
    (fun (this : 0 ≠ a) => match a with
    | 0 => False.elim (by contradiction)
    | a + 1 => bla a (by omega)) (by omega)
termination_by structural a
```

This is more have-like than `have` it seems…

**Comment by nomeata** [comment]
Some attempt at a fix in #10519, but I’m not sure if this is conceptually the right thing to do. (If not then maybe handling prop-valued `let/have` more gracefully would work in this case.)
